US08912248B2
15 g of 9(10H)acridone (manufactured by Wako Pure Chemical Industries, Ltd.) and 3.4 g of sodium hydroxide (manufactured by Wako Pure Chemical Industries, Ltd.) were dissolved in 84 g of dimethyl sulfoxide (manufactured by Wako Pure Chemical Industries, Ltd.), and the solution was heated to 45° C. 17.6 parts of CMS-P (manufactured by Seimi Chemical Co., Ltd.; chloromethylstyrene) was added dropwise to the solution, and the mixture was subjected to heating and stirring for further 5 hours at 50° C. This reaction liquid was poured under stirring into a mixed solution of 30 g of distilled water and 30 g of methanol (manufactured by Wako Pure Chemical Industries, Ltd.), and the resulting precipitate was separated by filtration and washed with 300 g of a solution prepared by mixing equal amounts by weight of distilled water and methanol. The resulting solids were dried under reduced pressure, and thus 17.5 g of 10-[(styrenyl)methyl]-9-acridanone was obtained as pale yellow solids. 175 g of N-methylpyrrolidone (manufactured by Wako Pure Chemical Industries, Ltd.) was added to 17.5 g of 10-[(styrenyl)methyl]-9-acridanone and 60.9 g of thioglycerol (manufactured by Sigma-Aldrich Co.), and the mixture was heated to 65° C. and stirred for 30 minutes under a nitrogen atmosphere. Subsequently, 0.14 g of V-65 (trade name, manufactured by Wako Pure Chemical Industries, Ltd.; 2,2′-azobis(2,4-dimethylvaleronitrile) was added thereto, and the mixture was stirred for 2 hours. 500 g of a mixed solvent of water/methanol (mixture at a weight ratio of 1:1) was added to the reaction solution, and the crystals crystallized out therefrom were separated by filtration and were washed using 100 g of methanol. The obtained solids were dried under reduced pressure, and 22.0 g of M-1 was obtained as pale yellow solids.

reactant | 9(10H)acridone | 15 g | C1=CC=CC=2NC3=CC=CC=C3C(C12)=O | C13H9NO
reactant | sodium hydroxide | 3.4 g | [OH-].[Na+]
reactant | chloromethylstyrene | ClCC=CC1=CC=CC=C1 | C9H9Cl
solvent | dimethyl sulfoxide | 84 g | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | methanol | 30 g | CO | CH4O
solvent | water | 30 g | O | H2O
product | 10-[(styrenyl)methyl]-9-acridanone | 17.5 g | C(=CC1=CC=CC=C1)CN1C=2C=CC=CC2C(C2=CC=CC=C12)=O | C22H17NO
